US07141690B2
Synthesis of (2-dimethylamino-4,5-dimethylcyclopentadienyl)(2-allyloxy-3-tert-butyl-5-methylphenyl)dimethylsilane
A solution of (2-allyloxy-3-tert-butyl-5-methylphenyl)dimethylchlorosilane (7.0 mmol) in toluene (12.1 mL) was added dropwise to a solution of 1-dimethylamino-3,4-dimethylcyclopentadienyllithium (7.0 mmol) in tetrahydrofuran (10.5 mL) and the mixture was stirred at room temperature for 6 hours. After the solvent was distilled off under reduced pressure, dehydrated pentane was added and a precipitated solid was filtered off. The filtrate was concentrated to obtain the title compound (2.86 g, 100%) as an oil.

reactant | (2-allyloxy-3-tert-butyl-5-methylphenyl)dimethylchlorosilane | 7.0 mmol | C(C=C)OC1=C(C=C(C=C1C(C)(C)C)C)[Si](Cl)(C)C | C16H25ClOSi
reactant | 1-dimethylamino-3,4-dimethylcyclopentadienyllithium | 7.0 mmol | CN(C1(C=C(C(=C1)C)C)[Li])C
solvent | toluene | 12.1 mL | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 10.5 mL | O1CCCC1 | C4H8O
product | (2-dimethylamino-4,5-dimethylcyclopentadienyl)(2-allyloxy-3-tert-butyl-5-methylphenyl)dimethylsilane | 2.86 g, 100% | CN(C=1C(C(=C(C1)C)C)[Si](C)(C)C1=C(C(=CC(=C1)C)C(C)(C)C)OCC=C)C | C25H39NOSi
